* Z:\home\administrator\WirelessCharger\SPICE\SP_rectifier_only.asc
L1 N001 Vin- 110µ Rser=0.6
L2 Sec+ Sec- 110µ Rser=0.2
D3 0 Rec+ RF2001T4S
C3 DC_Link+ 0 94µ V=100 Rser=0.01
C4 DC_Link+ 0 100n V=100 Rser=0.1
D1 Rec+ DC_Link+ RF2001T4S
D2 Sec- DC_Link+ RF2001T4S
D4 0 Sec- RF2001T4S
R5 Sec- Vin- 10Meg
V1 Vin+ Vin- SINE(0 100 34k) AC 50 Rser=0.01
R2 DC_Link+ 0 10
C2 Vin- N001 220n
R1 N001 Vin+ 0.2
C1 Rec+ Sec+ 220n
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
K L1 L2 0.25
* For a certain coupling coefficient, want to get the maximum power transfer from the source to the battery
* Want > 20k to avoid a high pitched hum
* Efficiency and output is highly dependent on the resonance capacitor.
.tran 0 20m 0
;ac oct 100 50k 500k
.backanno
.end
